US05288883
A solution of 6.3 g (0.026 mol) of 2-(4-fluorobenzyl)-2-(2,2-difluoro-1-methyl-cyclopropyl)-oxirane in 5 ml of dimethylformamide is added dropwise with stirring at 80° C. to a mixture of 4.6 g (0.066 mol) of 1,2,4-triazole and 0.5 g (0.0045 mol) of potassium tert.-butylate in 10 ml of dimethylformamide. When the addition is complete, the reaction mixture is stirred for 8 hours at 80° C. The solvent is subsequently stripped off under reduced pressure and the residue which remains is dissolved in ethyl acetate. The organic solution is washed with water, dried over sodium sulphate and concentrated under reduced pressure. The residue is chromatographed on silica gel using dichloromethane as the eluent. After the eluate has been evaporated, 1.7 g (21% of theory) of 1-(4-fluorophenyl)-2-(2,2-difluoro-1-methyl-cyclopropyl)-3-(1,2,4-triazol-1-yl)-propan-2-ol are obtained in the form of a solid substance of melting point 114° C.

reactant | 2-(4-fluorobenzyl)-2-(2,2-difluoro-1-methyl-cyclopropyl)-oxirane | 0.026 mol, 6.3 g | FC1=CC=C(CC2(OC2)C2(C(C2)(F)F)C)C=C1 | C13H13F3O
reactant | 1,2,4-triazole | 0.066 mol, 4.6 g | N1N=CN=C1 | C2H3N3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-fluorophenyl)-2-(2,2-difluoro-1-methyl-cyclopropyl)-3-(1,2,4-triazol-1-yl)-propan-2-ol | 1.7 g, 21% | FC1=CC=C(C=C1)CC(CN1N=CN=C1)(O)C1(C(C1)(F)F)C | C15H16F3N3O
